US06274536B1
8-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-6fluoro-imidazo[1,2-a]pyridine-2-carboxylic Acid
0.51 g of 8-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-6-fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester (Example P58) is dissolved in 3 ml of dimethyl sulfoxide and, with cooling in an ice-bath, 0.63 ml of a 2N aqueous sodium hydroxide solution is added. The mixture is then stirred for 1 hour at 22° C. Because the TLC analysis of a worked-up sample indicates that starting material is still present, a further 0.1 ml of 2N sodium hydroxide solution is added. After subsequently stirring for 30 minutes, the mixture is rendered strongly acidic with dilute hydrochloric acid, the resulting slurry is filtered, and the filtration residue is subsequently washed with cold water and dried in vacuo at 50° C. 0.35 g of the desired title compound is obtained in the form of a white solid (crude product).

reactant | 8-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-6-fluoro-imidazo[1,2-a]pyridine-2-carboxylic acid ethyl ester | 0.51 g | C(C)OC(=O)C=1N=C2N(C(=C(C=C2Cl)F)C2=NN(C(=C2Cl)OC(F)F)C)C1 | C15H11Cl2F3N4O3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium hydroxide | 2N, 0.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 8-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-[1H]-pyrazol-3-yl)-6fluoro-imidazo[1,2-a]pyridine-2-carboxylic Acid | 0.35 g | ClC=1C=2N(C(=C(C1)F)C1=NN(C(=C1Cl)OC(F)F)C)C=C(N2)C(=O)O | C13H7Cl2F3N4O3
